US07745451B2
B. 6-(6-(3-chloropyridin-2-yl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-ylamino)-3,3-dimethylindolin-2-one
A mixture of 6-amino-3,3-dimethylindolin-2-one (156 mg), 4-chloro-6-(3-chloropyridin-2-yl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine (100 mg), and CH3CN (5 mL) was run in a Microwave Reactor at 180° C. for 1 h. After cooling, the mixture was treated with sat. aq. Na2CO3 and extracted with EtOAc (30 mL×3). The combined organic layers were washed with brine, dried (Na2SO4) and concentrated. The residue was purified by column to give an off-white solid (120 mg, 80%).

reactant | 6-amino-3,3-dimethylindolin-2-one | 156 mg | NC1=CC=C2C(C(NC2=C1)=O)(C)C | C10H12N2O
reactant | 4-chloro-6-(3-chloropyridin-2-yl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine | 100 mg | ClC=1C2=C(N=CN1)CCN(C2)C2=NC=CC=C2Cl | C12H10Cl2N4
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | 6-(6-(3-chloropyridin-2-yl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-ylamino)-3,3-dimethylindolin-2-one | 120 mg, 80% | ClC=1C(=NC=CC1)N1CC2=C(N=CN=C2NC2=CC=C3C(C(NC3=C2)=O)(C)C)CC1 | C22H21ClN6O
